US07776859B2
To crude (2-methylpiperazin-2-yl)methanol (10 C) (0.042 mol) dissolved in CH3CN/DMA/H2O (20 mL, 20 mL, 20 mL) cooled to 0° C. was added CBZ-OSu (9.5 g, 0.038 mol) in DMA (15 mL). The reaction was stirred at 0° C. for 30 min then warmed to RT. To the mixture was added H2O (500 mL), sat'd brine (50 mL) and 1M NaOH (50 mL), then the residue was extracted four times with EtOAc (100 mL). The combined EtOAc layers were washed twice with brine then dried over MgSO4 and the solvent removed in vacuo to give racemic benzyl 3-(hydroxymethyl)-3-methylpiperazine-1-carboxylate (9.7 g). HPLC RT: 1.302 min (4 min Chromolith column TFA).

reactant | (2-methylpiperazin-2-yl)methanol | 0.042 mol | CC1(NCCNC1)CO | C6H14N2O
reactant | CBZ-OSu | 0.038 mol, 9.5 g | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
reactant | H2O | 500 mL | O | H2O
reactant | NaOH | 1M, 50 mL | [OH-].[Na+]
solvent | CH3CN DMA H2O | 20 mL | CC#N.CC(=O)N(C)C.O
solvent | DMA | 15 mL | CC(=O)N(C)C | C4H9NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | racemic benzyl 3-(hydroxymethyl)-3-methylpiperazine-1-carboxylate | 9.7 g | OCC1(CN(CCN1)C(=O)OCC1=CC=CC=C1)C | C14H20N2O3
